US09290451B2
a) (E)-N-(2,2-Dimethylpropylidene)-2-methylpropane-2-sulfinamide
To a solution of pivalaldehyde (2 g, 2.56 ml, 23.2 mmol) in dry dichloromethane (150 mL) under argon atmosphere was added 2-methylpropane-2-sulfinamide (3.38 g, 27.9 mmol) and titanium (IV) ethoxide (6.36 g, 5.84 ml, 27.9 mmol) to give a colorless solution. The reaction mixture was stirred at r.t overnight and quenched by slow addition of water while the reaction still stirring until a precipitate formed. The reaction mixture was then filtered through a pad of celite. The filtrate was extracted with water, the organic phase was collected, dried over Na2SO4 and evaporated down in vacuo to give the title compound (3.6 gr, 82%) as crude oil. The crude was used without any further purification for the next step, MS (EI): m/e=190.3 [M+H]+.

reactant | pivalaldehyde | 23.2 mmol, 2.56 ml, 2 g | C(C(C)(C)C)=O | C5H10O
reactant | 2-methylpropane-2-sulfinamide | 27.9 mmol, 3.38 g | CC(C)(C)S(=O)N | C4H11NOS
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | titanium (IV) ethoxide | 27.9 mmol, 5.84 ml, 6.36 g | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (E)-N-(2,2-Dimethylpropylidene)-2-methylpropane-2-sulfinamide | 3.6 gr, 82% | CC(\C=N\S(=O)C(C)(C)C)(C)C | C9H19NOS
